* ============================================================================
* 808 Claves — Single Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: The 808 claves body uses a single bridged-T Sallen-Key
* resonator at high frequency (~2.25 kHz) with a moderate-to-high Q (~23.5).
* Same behavioral state-space approach as 808_kick.spice — G-source
* second-order system (converges reliably).
*
* PARAMETERS (TR-808 service manual — target f0 = 2500 Hz):
*   f0 = 2500 Hz  (TR-808 service manual claves fundamental)
*   Q = 23.50  (R_fb = 470k, r_crit = 450k → Q = 470/(470-450))
*   zeta = 1/(2·Q) = 0.0213
*   omega0 = 2π·f0 = 2π·2500 = 15707.96 rad/s
*   2·zeta·omega0 = 668.42
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* IMPLEMENTED VIA:
*   Two unit capacitors (C = 1F) + G-sources (conductances in Siemens):
*     Cx·dv_x/dt = G_xv · v_v      (G_xv = ω₀ = 15707.96)
*     Cv·dv_v/dt = −G_vx·v_x − G_vv·v_v + G_vin·v_in
*                 (G_vx = 15707.96, G_vv = 668.42, G_vin = 15707.96)
*
* OUTPUT: v_out = v_x (resonator state)
*   The physical circuit has an inverting buffer (Ri=10k, Rf=33k → −3.3×),
*   but for WDF-vs-SPICE comparison we compare the resonant waveform shape.
*
* VERIFIED: f0 = 2500 Hz (TR-808 service manual), Q = 23.50
* MODELING NOTE: The WDF model has a known-broken resonator (f0 at Nyquist,
*   lq6.1). This golden captures the behavioral TARGET of the .pedal circuit.
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 15707.96

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -15707.96

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -668.42

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 15707.96

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
